US05663189
To a stirred solution of 2.97 g of 3,6-dimethylcatechol and 3.86 g of potassium carbonate in 60 mL of N,N-dimethylformamide is added 1.69 mL of bromochloromethane. A reflux condenser is attached and the mixture heated in an oil bath to 100° C. for 24 hours. The mixture is allowed to cool to room temperature and then is distributed between 100 mL of water and 200 mL of ether. The aqueous layer is separated and extracted with ether. The combined ether layers are dried over magnesium sulfate and concentrated under reduced pressure to yield a red liquid, which is purified by chromatography on silica gel to afford 2.0 g of 4,7-dimethyl-1,3-benzodioxole as a light yellow liquid.

reactant | 3,6-dimethylcatechol | 2.97 g | CC1=C(C(O)=C(C=C1)C)O | C8H10O2
reactant | potassium carbonate | 3.86 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromochloromethane | 1.69 mL | BrCCl | CH2BrCl
reactant | water | 100 mL | O | H2O
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | ether | 200 mL | CCOCC | C4H10O
product | 4,7-dimethyl-1,3-benzodioxole | 2.0 g | CC1=CC=C(C=2OCOC21)C | C9H10O2
